US07012075B2
To 2-(2-bromobenzyl)-4-methylpentanoic acid (1.248 g, 4.38 mmol), PyBOP (3.12 g, 6.0 mmol), aminoacetonitrile hydrochloride (1.11 g, 12.0 mmol) in dry DMF (30 mL) under dry nitrogen was added triethylamine (1.9 mL, 18.53 mmol) dropwise and the reaction was stirred for 2.5 hours. Aqueous Sat. NaHCO3 was added and the product, extracted with Et2O (2×), dried on Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 3/7) to afford 2-(2-bromobenzyl)-N-(cyanomethyl)-4-methylpentanamide.

reactant | 2-(2-bromobenzyl)-4-methylpentanoic acid | 4.38 mmol, 1.248 g | BrC1=C(CC(C(=O)O)CC(C)C)C=CC=C1 | C13H17BrO2
reactant | PyBOP | 6.0 mmol, 3.12 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 12.0 mmol, 1.11 g | Cl.NCC#N
reactant | triethylamine | 18.53 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-(2-bromobenzyl)-N-(cyanomethyl)-4-methylpentanamide | BrC1=C(CC(C(=O)NCC#N)CC(C)C)C=CC=C1 | C15H19BrN2O
